US07625903B2
A round-bottomed flask was charged with 5-fluoro-2H-3,1-benzoxazine-2,4(1H)-dione (500 mg, 2.8 mmol) and 30 mL water. The reaction was stirred for 15 min and then methylamine was added. The reaction was then stirred for 2 h. It was then extracted three times with ethyl acetate. Organic layers were combined and dried over sodium sulfate, then concentrated. The product was identified as 2-amino-6-fluoro-N-methylbenzamide (365 mg, 2.4 mmol, 86% yield). MS: M(C8H9FN2O)=168.17, (M+H)+=169.3.

reactant | 5-fluoro-2H-3,1-benzoxazine-2,4(1H)-dione | 2.8 mmol, 500 mg | FC1=CC=CC2=C1C(OC(N2)=O)=O | C8H4FNO3
reactant | methylamine | CN | CH5N
solvent | water | 30 mL | O | H2O
product | 2-amino-6-fluoro-N-methylbenzamide | 2.4 mmol, 365 mg, 86% yield | NC1=C(C(=O)NC)C(=CC=C1)F | C8H9FN2O
